US07956054B2
(2R,3R)-3-(1-((2′-(N-Acetylsulfamoyl)biphenyl-4-yl)methyl)-5-propyl-1H-pyrazole-3-carboxamido)-2-hydroxy-4-phenylbutanoic Acid
A solution of 1-(2′-acetylsulfamoylbiphenyl-4-ylmethyl)-5-propyl-1H-pyrazole-3-carboxylic acid (250 mg, 570 μmol), HATU (215 mg, 566 μmol) and DIPEA (592 μL, 3.4 mmol) in DMF (18 mL, 230 mmol) was stirred to pre-activate the acid. After 15 minutes, (2R,3R)-3-amino-2-hydroxy-4-phenylbutyric acid (110 mg, 566 μmol) was added The resulting solution was stirred at 45° C. overnight. The mixture was concentrated, re-dissolved in water/MeCN/TFA and purified using reverse phase liquid chromatography to yield the title compound (197 mg, 97% purity). MS m/z: [M+H]+ calcd for C32H34N4O7S, 619.22; found 619.6.

reactant | 1-(2′-acetylsulfamoylbiphenyl-4-ylmethyl)-5-propyl-1H-pyrazole-3-carboxylic acid | 570 μmol, 250 mg | C(C)(=O)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1N=C(C=C1CCC)C(=O)O | C22H23N3O5S
reactant | HATU | 566 μmol, 215 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.4 mmol, 592 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 230 mmol, 18 mL | CN(C)C=O | C3H7NO
reactant | (2R,3R)-3-amino-2-hydroxy-4-phenylbutyric acid | 566 μmol, 110 mg | N[C@@H]([C@H](C(=O)O)O)CC1=CC=CC=C1 | C10H13NO3
product | (2R,3R)-3-(1-((2′-(N-Acetylsulfamoyl)biphenyl-4-yl)methyl)-5-propyl-1H-pyrazole-3-carboxamido)-2-hydroxy-4-phenylbutanoic Acid | 197 mg, 97% | C(C)(=O)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1N=C(C=C1CCC)C(=O)N[C@@H]([C@H](C(=O)O)O)CC1=CC=CC=C1 | C32H34N4O7S
